US07357991B2
(2) Synthesis of 2,6/2,7-di-t-butylanthraquinone
Into a 500 ml flask having the egg plant shape equipped with a condenser, 200 ml of polyphosphoric acid was placed and heated at 150° C. Then, 32 g (95 mmole) of 4-t-butyl-2-(4-t-butylbenzoyl)benzoic acid was added in small portions, and the resultant mixture was stirred at the same temperature for 3 hours. After the reaction was completed, the reaction mixture was poured into ice water, and the resultant mixture was treated by liquid-liquid extraction with chloroform. After being dried with magnesium sulfate, the extract was concentrated under a reduced pressure by a rotary evaporator. The obtained crude crystals were recrystallized from hexane, and 21 g of the anthraquinone compound of the object compound was obtained (the yield: 69%; yellow crystals).

reactant | 4-t-butyl-2-(4-t-butylbenzoyl)benzoic acid | 95 mmole, 32 g | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)C(C1=CC=C(C=C1)C(C)(C)C)=O | C22H26O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,7-di-t-butylanthraquinone | yield: 69% | C(C)(C)(C)C1=CC=2C(C3=CC(=CC=C3C(C2C=C1)=O)C(C)(C)C)=O | C22H24O2
